US04110536
3-(3-Diethylaminopropyl)-5-(indol-3-yl)hydantoin
A solution of 5-(indol-3-yl)hydantoin (5.2 g, 0.024 mole) in 100 ml of DMF was added to a solution of sodium (1.1 g) in 100 ml of anhydrous C2H5OH. The solution was warmed warmed 3-diethylaminopropyl chloride hydrochloride (4.5 g, 0.024 mole) was added and the mixture was heated to reflux with stirring for 18 hours, filtered and diluted with H2O. The crude free base (2.5 g) and oxalic acid (1.5 g) was dissolved in methanol and diluted with ethyl acetate. The solid was collected and dried, yield 1.0 g, mp 231°-2°.

reactant | 5-(indol-3-yl)hydantoin | 0.024 mole, 5.2 g | N1C=C(C2=CC=CC=C12)C1C(NC(N1)=O)=O | C11H9N3O2
reactant | sodium | 1.1 g | [Na] | Na
reactant | 3-diethylaminopropyl chloride hydrochloride | 0.024 mole, 4.5 g | Cl.C(C)N(CCCCl)CC
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | C2H5OH | 100 ml | C(C)O | C2H6O
product | 3-(3-Diethylaminopropyl)-5-(indol-3-yl)hydantoin | C(C)N(CCCN1C(NC(C1=O)C1=CNC2=CC=CC=C12)=O)CC | C18H24N4O2
